US07365231B2
2,7-Bis(4-amino-3-hydroxyphenoxy)naphthalene was synthesized in a manner analogous to Example 2 from 2,7-bis(3-hydroxy-4-nitrophenoxy)naphthalene. Yield: 78.6%; mp 201˜210° C.; IR (KBr) 3295, 3362, 1495 cm−1; MS (EI) m/z 374 (M+, 100); Elemental Anal. Calcd. for C22H18N2O4: C, 70.59; H, 4.81; N, 7.49. Found: C, 70.42; H, 4.88; N, 7.42.

reactant | 2,7-bis(3-hydroxy-4-nitrophenoxy)naphthalene | OC=1C=C(OC2=CC3=CC(=CC=C3C=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C22H14N2O8
reactant | KBr | [K+].[Br-]
product | 2,7-Bis(4-amino-3-hydroxyphenoxy)naphthalene | Yield: 78.6% | NC1=C(C=C(OC2=CC3=CC(=CC=C3C=C2)OC2=CC(=C(C=C2)N)O)C=C1)O | C22H18N2O4
